US06596719B1
According to Example 4a) 100 mg 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide was reacted with 166 mg 4-bromobenzenesulfonylchloride to give 106 mg 4-tert.-butyl-N-{6-[2-(4-bromobenzenesulfonyl-amino)-ethoxy]-5-(o-methoxy-phenoxy)-pyrimidin-4-yl}-benzenesulfonamide. LC-MS: tR=5.95 min, [M−1]−=691.41.

reactant | 4-tert.-butyl-N-[6-(2-aminoethoxy)-5-(o-methoxy-phenoxy)-4-pyrimidinyl]-benzene sulfonamide | 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC=C1)OC)OCCN | C23H28N4O5S
reactant | 4-bromobenzenesulfonylchloride | 166 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-tert.-butyl-N-{6-[2-(4-bromobenzenesulfonyl-amino)-ethoxy]-5-(o-methoxy-phenoxy)-pyrimidin-4-yl}-benzenesulfonamide | 106 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C1=CC=C(C=C1)Br | C29H31BrN4O7S2
